US03953499
E. 1-Bromo-6-methylundec-2-yn-5-ene
A mixture of 17 g. of 6-methylundec-2-yn-5-en-1-ol, 32.4 ml. of ether, and 2.07 ml. of pyridine was stirred under nitrogen in an ice-salt bath and 4.5 ml. of phosphorus tribromide was added. The ice-salt bath was then removed and the mixture was first allowed to warm to room temperature, then was heated under reflux for 2.5 hrs. The mixture was again cooled in an ice bath, and 15 ml. each of ether and water were added. The ether layer was separated, washed with aqueous sodium bicarbonate, saturated aqueous sodium chloride, dried over sodium sulfate, and evaporated. The thus obtained residue was distilled, collecting 14 g. of a mixture comprising 1-bromo-6-methylundec-2-yn-5-ene at 85°-89°C./0.005 mm.

reactant | 6-methylundec-2-yn-5-en-1-ol | CC(=CCC#CCO)CCCCC | C12H20O
reactant | ether | CCOCC | C4H10O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-Bromo-6-methylundec-2-yn-5-ene | BrCC#CCC=C(CCCCC)C | C12H19Br
